US07112638B2
A solution of 5-methyl-2,3-diphenyl-5,6-dihydro-4H-cyclopenta[b]thiophene-4-one (6.08 g, 20 mmol) in 75 mL of ether was slowly added to a solution of LiAlH4 (0.38 g, 10 mmol) in 50 mL of ether and stirred overnight. The resulting suspension was poured into a mixture of ice and water, the organic layer was isolated, while the water layer was extracted with ether (3×50 mL). The combined organic layers were washed with water, dried over MgSO4 and evaporated off to dryness. The 5-methyl-2,3-diphenyl-5,6-dihydro-4H-cyclopenta[b]thiophen -4-ol so obtained was dissolved in 100 mL of benzene, added of 1 g of p-toluenesulfonic acid and was refluxed for 10 min. Then the reaction mixture was cooled to room temperature and treated with a saturated aqueous solution of Na2CO3. The organic phase was isolated, dried over MgSO4 and evaporated off to dryness giving the crystallized product. Yield 3.46 g (60% with respect to the starting ketone).

reactant | 5-methyl-2,3-diphenyl-5,6-dihydro-4H-cyclopenta[b]thiophene-4-one | 20 mmol, 6.08 g | CC1C(C2=C(SC(=C2C2=CC=CC=C2)C2=CC=CC=C2)C1)=O | C20H16OS
reactant | LiAlH4 | 10 mmol, 0.38 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | O | H2O
solvent | ether | 75 mL | CCOCC | C4H10O
solvent | ether | 50 mL | CCOCC | C4H10O
product | 5-methyl-2,3-diphenyl-5,6-dihydro-4H-cyclopenta[b]thiophen -4-ol | CC1C(C2=C(SC(=C2C2=CC=CC=C2)C2=CC=CC=C2)C1)O | C20H18OS
